US07276518B2
N′-(2-Benzo[b]thiophen-3-yl-ethyl)-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine dihydrochloride, cis/trans mixture
Benzo[b]thiophen-3-yl-ethylamine (289 mg, 1.6 mmol) was dissolved in dry 1,2-dichloroethane (10 ml) under argon and, after addition of 4-dimethylamino-4-phenylcyclohexanone (354 mg, 1.6 mmol) and sodium sulfate (2 g), the mixture was stirred for one hour at RT. Sodium triacetoxyborohydride (440 mg, 2.0 mmol) was then added to the reaction mixture in one portion. After 3 days, glacial acetic acid (4 mmol) was subsequently added and the mixture was stirred for a further 24 hours at RT. For working up, water (20 ml) was added and the reaction mixture was filtered with suction. The solid obtained was dissolved with two molar sodium carbonate solution and ethyl acetate. The organic phase was separated off, dried over sodium sulfate and filtered and the filtrate concentrated. The solid but tacky residue obtained (213 mg) was dissolved in 2-butanone (5 ml), and ethanolic HCl (500 μl, 1.5 mmol) was added at RT. After two hours, the solution was concentrated to dryness and the residue was suspended in diethyl ether (5 ml), filtered off with suction and rinsed with diethyl ether (3×3 ml). A mixture of cis- and trans-N′-(2-benzo[b]thiophen-3-yl-ethyl)-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine dihydrochloride (217 mg, m.p. 164-167° C.) was obtained as a beige-brown solid.

reactant | Benzo[b]thiophen-3-yl-ethylamine | 1.6 mmol, 289 mg | S1C2=C(C(=C1)NCC)C=CC=C2 | C10H11NS
reactant | 4-dimethylamino-4-phenylcyclohexanone | 1.6 mmol, 354 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | sodium sulfate | 2 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | Sodium triacetoxyborohydride | 2.0 mmol, 440 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 4 mmol | C(C)(=O)O | C2H4O2
reactant | sodium carbonate | two molar | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 1.5 mmol, 500 μl | Cl | ClH
reactant | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | 2-butanone | 5 ml | CC(CC)=O | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | N′-(2-Benzo[b]thiophen-3-yl-ethyl)-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine dihydrochloride | Cl.Cl.S1C2=C(C(=C1)CCNC1CCC(CC1)(N(C)C)C1=CC=CC=C1)C=CC=C2 | InChI=1S/C24H30N2S.2ClH/c1-26(2)24(20-8-4-3-5-9-20)15-12-21(13-16-24)25-17-14-19-18-27-23-11-7-6-10-22(19)23;;/h3-11,18,21,25H,12-17H2,1-2H3;2*1H
